US08022205B2
[4-(3-t-Butoxyphenyl)-2-morpholin-4-yl-5,6-dihydropyrrolo[2,3-d]pyrimidin-7-yl]-phenylmethanone (C-03)
To an acetonitrile solution (2 ml) of 4-(3-t-butoxyphenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (36 mg), an acetonitrile solution (1 ml) of pyridine (25 μl, 3 equivalents), dimethylaminopyridine (ca. 2 mg, catalytic amount) and benzoyl chloride (28 mg, 2 equivalents) was added under ice cooling, followed by stirring at room temperature for 10 hours. To the reaction mixture, water (20 ml) was added, followed by extraction with ethyl acetate (10 ml×2). The organic layer was washed with aqueous ammonium chloride solution and brine, and subsequently dried over sodium sulfate. After filtering off the drying agent, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative TLC (n-hexane/ethyl acetate=2/1), to obtain the desired compound as a colorless powder (42 mg, 90%).

reactant | 4-(3-t-butoxyphenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | 36 mg | C(C)(C)(C)OC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)NCC2 | C20H26N4O2
reactant | pyridine | 25 μl, 3 equivalents | N1=CC=CC=C1 | C5H5N
reactant | dimethylaminopyridine | ca. 2 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | benzoyl chloride | 28 mg, 2 equivalents | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 20 ml | O | H2O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | [4-(3-t-Butoxyphenyl)-2-morpholin-4-yl-5,6-dihydropyrrolo[2,3-d]pyrimidin-7-yl]-phenylmethanone | 42 mg, 90% | C(C)(C)(C)OC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C(=O)C2=CC=CC=C2 | C27H30N4O3
